US08703758B2
C) 4-(cyclopropylmethoxy)-2-nitrobenzaldehyde
To a solution of 1-(bromomethyl)-4-(cyclopropylmethoxy)-2-nitrobenzene (11.4 g) in acetonitrile (200 mL) were added molecular sieves 4 Å (55 g) and N-methylmorpholine (9.37 g) at room temperature. Under an argon atmosphere, the reaction mixture was stirred at room temperature for 1 hr, and filtered through celite. The obtained filtrate was concentrated under reduced pressure, and the residue was dissolved in diethyl ether and the solution was washed twice with 6N hydrochloric acid and once with water. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (6.39 g).

reactant | 1-(bromomethyl)-4-(cyclopropylmethoxy)-2-nitrobenzene | 11.4 g | BrCC1=C(C=C(C=C1)OCC1CC1)[N+](=O)[O-] | C11H12BrNO3
reactant | N-methylmorpholine | 9.37 g | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 4-(cyclopropylmethoxy)-2-nitrobenzaldehyde | 6.39 g | C1(CC1)COC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C11H11NO4
